US07094801B2
4-{3E-[5-(2,5-Dihydro-furan-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide
5-(2,5-Dihydro-furan-2-yl)-2,4-dimethoxy-benzaldehyde (Ex-121A, 0.10 g, 0.43 mmol) and 4-acetylbenzenesulfonamide (Ex-26A, 0.085 g, 0.43 mmol) were dissolved in a dimethylformamide-methanol solution (2.9 mL, 7:3). After complete dissolution, lithium methoxide (0.065 g, 1.7 mmol) was added and the resulting orange slurry was stirred in the dark at room temperature for 4 h. Upon completion, as determined by HPLC, the mixture was diluted with water (15 mL) and extracted with ethyl acetate (3×20 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude oil was taken up in ethanol (2 mL) and warmed to 60° C. to obtain complete dissolution and allowed to cool to room temperature. The resulting precipitate was collected on filter paper and dried in vacuo to yield 0.13 g (70%) of the title compound as a yellow solid, mp 194–195° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.23 (d, 2H, J=8.2 Hz), 8.03 (d, 1H, J=15.3 Hz), 7.97 (d, 2H, J=8.2 Hz), 7.69 (s, 1H), 7.65 (d, 1H, J=15.3 Hz), 7.55 (brs, 2H), 6.73 (s, 1H), 6.06–6.09 (m, 1H), 5.90–5.98 (m, 2H), 4.86–4.92 (m, 1H), 4.63–4.68 (m, 1H), 3.96 (s, 3H), 3.92 (s, 3H). MS (ESI) m/z=416 ([M+H]+, 100%). Anal. Calcd. C21H21NO6S: C, 60.71; H, 5.09; N, 3.37; S, 7.72. Found: C, 60.95; H, 5.24; N, 3.46; S, 7.72.

reactant | 5-(2,5-Dihydro-furan-2-yl)-2,4-dimethoxy-benzaldehyde | 0.43 mmol, 0.10 g | O1C(C=CC1)C=1C(=CC(=C(C=O)C1)OC)OC | C13H14O4
reactant | 4-acetylbenzenesulfonamide | 0.43 mmol, 0.085 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | lithium methoxide | 1.7 mmol, 0.065 g | C[O-].[Li+]
solvent | dimethylformamide methanol | 2.9 mL | CN(C=O)C.CO
solvent | water | 15 mL | O | H2O
product | 4-{3E-[5-(2,5-Dihydro-furan-2-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide | 0.13 g, 70% | O1C(C=CC1)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C21H21NO6S
